US04034002
7-[8-Nitromethyl-7-(3-Hydroxy-3-Phenyl-1-Octenyl)-1,4-Dioxaspiro[4.4]Non-6-Yl]-5-Heptenoic Acid
A solution of 1.88 g. of 7-[8-nitromethyl-7-(3-oxo-1-octenyl)-1,4-dioxaspiro[4.4]non-6-yl]-5-heptenoic acid in 80 ml. of tetrahydrofuran was treated at -10° C. with 6.6 ml. of 3 M phenyl magnesium bromide in tetrahydrofuran and was stirred at 0° C. for one hour. The reaction mixture was added to aqueous ammonium chloride solution, acidified with acetic acid and extracted with ether. After washing with water and drying with magnesium sulfate, the extract was evaporated and the residue chromatographed on silica. Elution with 30% ethyl acetate in hexane gave 0.90 g. of the title product as an oil, λmaxfilm 3.00 (shoulder), 3.50, 5.88, 6.28, 6.47, 6.95, 7.25, 13.30, 14.35 μ. NMR: δ 3.93 (S, 4, ketal), 4.35 (M, 2, --CH2NO2), 5.15-6.05 (M, 4, olefinic --H), 5.88 (S, 2, -OH), 7.45 (M, 5, aromatic-HO ppm. Mass spectrum: M+ at m/e 515 (theory 515), M+--H2O at m/e 497.2776 (theory 497.2776.

reactant | 7-[8-nitromethyl-7-(3-oxo-1-octenyl)-1,4-dioxaspiro[4.4]non-6-yl]-5-heptenoic acid | [N+](=O)([O-])CC1C(C(C2(OCCO2)C1)CC=CCCCC(=O)O)C=CC(CCCCC)=O | C23H35NO7
reactant | phenyl magnesium bromide | 3 M | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-[8-Nitromethyl-7-(3-Hydroxy-3-Phenyl-1-Octenyl)-1,4-Dioxaspiro[4.4]Non-6-Yl]-5-Heptenoic Acid | [N+](=O)([O-])CC1C(C(C2(OCCO2)C1)CC=CCCCC(=O)O)C=CC(CCCCC)(C1=CC=CC=C1)O | C29H41NO7
